
.subckt mux64 vdd vss q0 q1 q2 q3 q4 q5 q6 q7 q8 q9 q10 q11 q12 q13 q14 q15 q16 q17 q18 q19 q20 q21 q22 q23 q24 q25 q26 q27 q28 q29 q30 q31 q32 q33 q34 q35 q36 q37 q38 q39 q40 q41 q42 q43 q44 q45 q46 q47 q48 q49 q50 q51 q52 q53 q54 q55 q56 q57 q58 q59 q60 q61 q62 q63 s0 s1 s2 s3 s4 s5 out 



xmux161 vdd vss q0 q1 q2 q3 q4 q5 q6 q7 q8 q9 q10 q11 q12 q13 q14 q15 s0 s1 s2 s3 out1 mux16
xmux162 vdd vss q16 q17 q18 q19 q20 q21 q22 q23 q24 q25 q26 q27 q28 q29 q30 q31 s0 s1 s2 s3 out2 mux16
xmux163 vdd vss q32 q33 q34 q35 q36 q37 q38 q39 q40 q41 q42 q43 q44 q45 q46 q47 s0 s1 s2 s3 out3 mux16
xmux164 vdd vss q48 q49 q50 q51 q52 q53 q54 q55 q56 q57 q58 q59 q60 q61 q62 q63 s0 s1 s2 s3 out4 mux16

xmux41 vdd vss out1 out2 out3 out4 s4 s5 out mux4


.ends
