

.subckt mux8 vdd vss q0 q1 q2 q3 q4 q5 q6 q7 s0 s1 s2 out



xmux41 vdd vss q0 q1 q2 q3 s0 s1 out1 mux4
xmux42 vdd vss q4 q5 q6 q7 s0 s1 out2 mux4

xmux2 vdd vss out1 out2 s2 out mux2



.ends
